US08835428B2
Step 7: 3-(4-(3-(2,6-Difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylic acid
Into a 100 ml round bottom flask was added ethyl 3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylate (1.0 equiv.), NaOH (5.0 equiv.) and 150 ml of 2:1 THF/Water. The mixture was stirred at room temperature for 15 minutes. The reaction mixture was slightly acidified to pH <7 by adding 2N HCl and then the solvent was evaporated. The solid was suspended in water and filtered, given water washings and air-dried. The resulting solid was triturated with minimum quantity of acetone and collected by filtration. This yielded the title compound as a white solid (91%) after it was dried in vacuo; mp 254-258° C. (dec.); 1H NMR (300 MHz; DMSO-d6) δ: 2.31 (s, 3H), 7.10-7.18 (m, 2H), 7.24-7.34 (m, 1H), 7.68-7.72 (m, 2H), 7.78 (s, 1H), 8.03-8.06 (d, J=8.4 Hz, 1H), 8.31 (s, 1H), 8.65 (s, 1H); IR (KBr) 3323, 3189, 3074, 3006, 1743, 1649, 1641, 1569, 1492, 1469, 1243, 1218, 1181, 1003, 833, 733 cm−1.

reactant | ethyl 3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylate | 1.0 equiv. | FC1=C(C(=CC=C1)F)NC(NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C)=O | C20H17F2N3O4
reactant | NaOH | 5.0 equiv. | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | THF Water | 150 ml | C1CCOC1.O
product | 3-(4-(3-(2,6-Difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylic acid | 91% | FC1=C(C(=CC=C1)F)NC(NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)O)C)=O | C18H13F2N3O4
